US04292431
To a suspension of 1.68 g (0.01 mol) of 1,4-dimethyl-5-carbethoxyimidazole in 10 ml of water was added 0.8 g (0.02 mol) of sodium hydroxide. The mixture was heated to reflux for 30 min. Thereafter, 3.54 g (0.03 mol) of formaldehyde sodium bisulfite was added and heated to reflux for 4 hours. The water in the reaction mixture was removed, and the residue was extracted with isopropyl alcohol and filtered. The isopropyl alcohol extract was concentrated, and the residual solid recrystallized from ethyl acetate and filtered to afford 0.46 g of 1,4-dimethyl-5-hydroxymethylimidazole as a white powdered solid, m.p. 125°-127° C.

reactant | 1,4-dimethyl-5-carbethoxyimidazole | 0.01 mol, 1.68 g | CN1C=NC(=C1C(=O)OCC)C | C8H12N2O2
reactant | sodium hydroxide | 0.02 mol, 0.8 g | [OH-].[Na+]
reactant | formaldehyde sodium bisulfite | 0.03 mol, 3.54 g | S([O-])(O)=O.[Na+].C=O
solvent | water | 10 ml | O | H2O
product | 1,4-dimethyl-5-hydroxymethylimidazole | 0.46 g | CN1C=NC(=C1CO)C | C6H10N2O
